US04667033
This product is produced from 4-(imidazol-1-yl)-thiophen-2-aldehyde which is reacted with methacrylo nitrile to yield 4-[4-(imidazol-1-yl)-thien-2-yl]-2-methyl-4-oxo-butyric acid nitrile. This compound is hydrolized to 4-[4-(imidazol-1-yl)-thien-2-yl]-2-methyl-4-oxo-butyric acid and which is subjected to reaction with hydrazine hydrate to yield 4.5-dihydro-6-[4-(imidazol-1-yl)-thien-2-yl]-4-methyl-3(2H)-pyridazinone.

reactant | 4-[4-(imidazol-1-yl)-thien-2-yl]-2-methyl-4-oxo-butyric acid | N1(C=NC=C1)C=1C=C(SC1)C(CC(C(=O)O)C)=O | C12H12N2O3S
reactant | hydrazine hydrate | O.NN
product | 4.5-dihydro-6-[4-(imidazol-1-yl)-thien-2-yl]-4-methyl-3(2H)-pyridazinone | N1(C=NC=C1)C=1C=C(SC1)C=1CC(C(NN1)=O)C | C12H12N4OS
